US08748624B2
STEP C: ethyl 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate
N-(2-bromo-4-(trifluoromethyl)benzyl)-2′,4′-dichloro-[1,1′-biphenyl]-4-amine (386 mg, 0.8 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate, prepared as in step a, (424 mg, 1.2 mmol), Pd(dppf)Cl2 (67 mg, 0.1 mmol), and K2CO3 (225 mg, 1.6 mmol) were dissolved in 1,4-dioxane (8 mL) and water (2 mL) and the resulting mixture was heated to 80° C. After 16 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | N-(2-bromo-4-(trifluoromethyl)benzyl)-2′,4′-dichloro-[1,1′-biphenyl]-4-amine | 0.8 mmol, 386 mg | BrC1=C(CNC2=CC=C(C=C2)C2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)C(F)(F)F | C20H13BrCl2F3N
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
reactant | K2CO3 | 1.6 mmol, 225 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 1.2 mmol, 424 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C31H26Cl2F3N3O3
